US04234594
5-Amino-1,3,4-trimethyl pyrazole hydrochloride
2-Methyl-3-keto-butyronitrile (J. Am. Chem. Soc. 79, 723, 1957) (25.25 g.) in 120 ml. ethanol was treated with 15 g. methylhydrazine while cooling. The solution was refluxed 3 hours then concentrated in vacuum, benzene added and the solution concentrated again. Ether was added to give 29.12 g. mp 70-106 of base (contained H2O). This was converted to the hydrochloride with HCl in isopropyl alcohol. HCl had mp 286°-288°.

reactant | 2-Methyl-3-keto-butyronitrile | 25.25 g | CC(C#N)C(C)=O | C5H7NO
reactant | ethanol | C(C)O | C2H6O
reactant | methylhydrazine | CNN | CH6N2
reactant | hydrochloride | Cl | ClH
solvent | H2O | O | H2O
product | 5-Amino-1,3,4-trimethyl pyrazole hydrochloride | Cl.NC1=C(C(=NN1C)C)C | InChI=1S/C6H11N3.ClH/c1-4-5(2)8-9(3)6(4)7;/h7H2,1-3H3;1H
